US07405299B2
Preparation of 6-Bromo-3-(morpholin-4-yl)methyl-imidazo[1,2-a]pyridine
Reflux a solution of 6-bromo-imidazo[1,2-a]pyridine-3-carbaldehyde (J. Med. Chem. 1970, 13(6), 1048-51; 0.45 g, 1.99 mmol), morpholine (1.7 g, 19.9 mmol), and acetic acid (0.12 mL, 1.99 mmol) in toluene (200 mL) for 3 h. Concentrate to dryness and re-dissolve in methanol (100 mL). Add sodium borohydride (0.226 g, 5.99 mmol) in portions and stir for 30 min. Concentrate to ˜25 mL, dilute with saturated aqueous sodium bicarbonate, extract into ethyl acetate, combine and concentrate. Flash chromatography gives the titled compound (0.25 g, 42%). MS ES+ m/e 295.8, 297.8 (M+1). 1H NMR (400 MHz, DMSO-d6) δ 8.69 (s, 1H), 7.54 (d, J=10 Hz, 1H), 7.51 (s, 1H), 7.35 (d, J=10 Hz, 1H), 3.81 (s, 2H), 3.52 (t, J=4 Hz, 1H), 2.35 (t,J=4 Hz, 4H).

reactant | 6-bromo-imidazo[1,2-a]pyridine-3-carbaldehyde | 1.99 mmol, 0.45 g | BrC=1C=CC=2N(C1)C(=CN2)C=O | C8H5BrN2O
reactant | morpholine | 19.9 mmol, 1.7 g | N1CCOCC1 | C4H9NO
reactant | acetic acid | 1.99 mmol, 0.12 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 5.99 mmol, 0.226 g | [BH4-].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-3-(morpholin-4-yl)methyl-imidazo[1,2-a]pyridine | 0.25 g, 42% | BrC=1C=CC=2N(C1)C(=CN2)CN2CCOCC2 | C12H14BrN3O
